US04211732
Ethyl-N-(benzyloxycarbonyl)-N-(hydroxyphosphinylmethyl)glycine was dissolved in benzene and added dropwise to a stirred solution of phosphorus trichloride to yield ethyl-N-(benzyloxycarbonyl)-N-[bis(chloro)phosphinomethyl]glycine. After stirring for 5-10 minutes, the solution was filtered and concentrated in vacuo to yield the phosphine dichloride (21.8 g, 0.0619 mole) which was dissolved in tetrahydrofuran. To the tetrahydrofuran solution was added isopropanol (3.71 g, 0.0619 mole) and triethylamine (6.255 g., 0.0619 mole) dissolved in 50 ml. of tetrahydrofuran. After stirring for one hour, thiophenol (6.86 g., 0.0619 mole) and triethylamine (6.255 g., 0.0619 mole) dissolved in 50 ml. of tetrahydrofuran was added. The reaction mixture was then stirred for two hours and sulfur (1.98 g., 0.0619 mole) was added and stirring continued overnight. The reaction mixture was then filtered, concentrated to dryness and dissolved in diethyl ether. The diethyl ether solution was then washed with 5% hydrochloric acid, 5% aqueous sodium bicarbonate and dried over magnesium sulfate. The ethereal solution was then filtered and concentrated in vacuo to yield a residue. The residue was dissolved in methanol and centrifuged to remove unreacted sulfur; the supernatant liquid was decanted and concentrated to dryness. This residue was chromatographed on silica gel employing diethyl ether as a solvent to yield ethyl-N-(benzyloxycarbonyl)-N-[(phenylthio, isopropoxy)phosphinothioylmethyl]glycine (23 g.) as an oil having a refractive index of ND25 =1.5755 and having the following analysis.

reactant | Ethyl-N-(benzyloxycarbonyl)-N-(hydroxyphosphinylmethyl)glycine | C(C)C(N(CP(=O)O)C(=O)OCC1=CC=CC=C1)C(=O)O | C13H18NO6P
reactant | phosphorus trichloride | P(Cl)(Cl)Cl | Cl3P
solvent | benzene | C1=CC=CC=C1 | C6H6
product | ethyl-N-(benzyloxycarbonyl)-N-[bis(chloro)phosphinomethyl]glycine | C(C)C(N(CP(Cl)Cl)C(=O)OCC1=CC=CC=C1)C(=O)O | C13H16Cl2NO4P
